US06046210
7-Hydroxy-N-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline.
A solution of borontribromide i n dichloromethane (72 ml, 1M solution, 72 mmol) was added dropwise with stirring to an ice-cooled solution of 7-methoxy-N-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline (5.00 g, 12.1 mmol) in dichloromethane (150 ml). After stirring at room temperature for 16 h the reaction mixture was poured onto a mixture of crushed-ice (200 g) and 0.880 aqueous ammonia (400 ml). The resulting mixture was extracted with dichloromethane (3×200 ml). The combined organics were washed with brine (200 ml) then dried (Na2SO4) and the solvent evaporated in vacuo to give the title compound as a pale yellow solid (3.60 g, 75%).

reactant | 7-methoxy-N-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline | 12.1 mmol, 5.00 g | COC1=CC=C2CCN(CC2=C1)CCCCNC(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C27H30N2O2
reactant | ammonia | 400 ml | N | H3N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 72 mmol, 1M, 72 ml | ClCCl | CH2Cl2
product | 7-Hydroxy-N-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline | 3.60 g, 75% | OC1=CC=C2CCN(CC2=C1)CCCCNC(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C26H28N2O2
